US04667010
With stirring, 212.2 g (0.65 mole) of 1,6-bis(4-methoxyphenyl)hexanedione in 500 ml of toluene are heated to 80° C. Then 520 g of amalgamated zinc filings as well as 150 ml of water and 500 ml of hydrochloric acid are added, whereupon evolution of H2 gas commences. After the evolution of gas has subsided, the reaction solution is gently refluxed overnight. After filtration, the aqueous phase which has been separated from the organic phase is extracted with 200 ml of toluene. The organic phases are combined and subjected to fractional distillation, affording 412.6 g (69.1% of theory) of almost colourless crystals of 1,6-bis(4-methoxyphenyl)hexane.

reactant | 1,6-bis(4-methoxyphenyl)hexanedione | 0.65 mole, 212.2 g | COC1=CC=C(C=C1)CC(C(CCCC1=CC=C(C=C1)OC)=O)=O | C20H22O4
reactant | water | 150 ml | O | H2O
reactant | hydrochloric acid | 500 ml | Cl | ClH
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
catalyst | zinc | 520 g | [Zn] | Zn
product | 1,6-bis(4-methoxyphenyl)hexane | COC1=CC=C(C=C1)CCCCCCC1=CC=C(C=C1)OC | C20H26O2
